US09102636B2
Subsequently, a mixture of 5-methoxy-2-nitrophenol (7.47 g) and 10% Pd/C (1.87 g) was prepared in an ethyl acetate/ethanol (100 mL, 1:1 v/v) mixture. The resulting slurry was stirred under an H2 atmosphere for 3.5 h at room temperature. Hydrogen was subsequently purged from the reaction flask and the reaction mixture was filtered through Celite. After washing the celite pad with additional solvent, volatiles in the resultant filtrate were removed in vacuo to give 2-amino-5-methoxyphenol (6.03 g, 98%).

reactant | 5-methoxy-2-nitrophenol | 7.47 g | COC=1C=CC(=C(C1)O)[N+](=O)[O-] | C7H7NO4
catalyst | Pd/C | 1.87 g | [Pd] | Pd
solvent | ethyl acetate ethanol | 100 mL | C(C)(=O)OCC.C(C)O
product | 2-amino-5-methoxyphenol | 6.03 g, 98% | NC1=C(C=C(C=C1)OC)O | C7H9NO2
